US06004959
5-(2-Diethylamino-ethoxy)-2-methoxy-fluoren-9-one
In a manner analogous to Example 3D1, combine 5-hydroxy-2-methoxy-fluoren-9-one (0.35 g, 1.5 mmole), 3 mL methanol and sodium methoxide (0.12 g, 2.1 mole) in 10 mL chlorobenzene. After cooling, add the specially prepared free base 2-chloroethyldiethyl amine to obtain the hydrochloride salt of the title compound as a yellow-orange powder. m.p. 196°-199° C. (dec.). Yield 0.387 g, 72%.

reactant | 5-hydroxy-2-methoxy-fluoren-9-one | 1.5 mmole, 0.35 g | OC1=C2C=3C=CC(=CC3C(C2=CC=C1)=O)OC | C14H10O3
reactant | methanol | 3 mL | CO | CH4O
reactant | sodium methoxide | 2.1 mole, 0.12 g | C[O-].[Na+]
reactant | 2-chloroethyldiethyl amine | ClCCN(CC)CC | C6H14ClN
solvent | chlorobenzene | 10 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 5-(2-Diethylamino-ethoxy)-2-methoxy-fluoren-9-one | C(C)N(CCOC1=C2C=3C=CC(=CC3C(C2=CC=C1)=O)OC)CC | C20H23NO3
